US05843975
5.3. Ethyl [6-(phenylmethoxy)-1,2-benzisoxazol-3-yl]carbamate
8.8 ml (0.092 mol) of ethyl chloroformate and 10.6 g (0.126 mol) of sodium hydrogen carbonate are added to a solution of 10.1 g (0.042 mol) of 6-(phenylmethoxy)-1,2-benzisoxazol-3-amine in 100 ml of a 9:1 mixture of tetrahydrofuran and water. The mixture is stirred for 18 hours and then the solvent is evaporated off and the residue is treated with dichloromethane and water. The organic phase is decanted off, dried over sodium sulphate and concentrated under reduced pressure. After crystallization from isopropyl alcohol and recrystallization from n-butanol, 11.5 g of product are obtained.

reactant | ethyl chloroformate | 0.092 mol, 8.8 ml | ClC(=O)OCC | C3H5ClO2
reactant | sodium hydrogen carbonate | 0.126 mol, 10.6 g | C(O)([O-])=O.[Na+]
reactant | 6-(phenylmethoxy)-1,2-benzisoxazol-3-amine | 0.042 mol, 10.1 g | C1(=CC=CC=C1)COC1=CC2=C(C(=NO2)N)C=C1 | C14H12N2O2
reactant | tetrahydrofuran | O1CCCC1 | C4H8O
solvent | water | O | H2O
product | Ethyl [6-(phenylmethoxy)-1,2-benzisoxazol-3-yl]carbamate | C1(=CC=CC=C1)COC1=CC2=C(C(=NO2)NC(OCC)=O)C=C1 | C17H16N2O4
